US09428452B2
N-(2,4-dimethylphenyl)-N-isobutyl-4-(5-oxopyrrolidin-2-yl)benzenesulfonamide
To a suspension of palladium on carbon (22.09 mg, 0.208 mmol) in ethanol (5 mL) stirred under nitrogen at room temperature was added a solution of methyl 4-(4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)phenyl)-4-nitrobutanoate (96 mg, 0.208 mmol) in ethanol (5 mL) dropwise. The flask was carefully filled with hydrogen and the reaction mixture was stirred at 20° C. for 2 hours. LCMS analysis showed disappearance of starting material. The reaction mixture was filtered through celite under an atmosphere of nitrogen and the filtrate evaporated in vacuo to give a yellow gum. The crude was purified by mass directed autoprep (formic acid modifier). The relevant fractions were concentrated under a stream of nitrogen to give the required product, 1.01 mg. LCMS [LCMS1] Rt 1.17 min, m/z (ES+) 400 (M+H, weak) 442 (M+MeCN+H)

reactant | methyl 4-(4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)phenyl)-4-nitrobutanoate | 0.208 mmol, 96 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C(CCC(=O)OC)[N+](=O)[O-])CC(C)C | C23H30N2O6S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.208 mmol, 22.09 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(2,4-dimethylphenyl)-N-isobutyl-4-(5-oxopyrrolidin-2-yl)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C1NC(CC1)=O)CC(C)C | C22H28N2O3S
